Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.95617307432
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.7944860043400002
[H:12].[H:1][C:2]([H:3])([H:4])[O:5][O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.62428638865
[H:16].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-1.60824904893
[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-0.702312635938
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3][C:4]=[O:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.27473892576
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.974227771669999
[C:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-2.71784259393
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.58901851621
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12].[H:1][C:2]#[C:3],5.78615603291
[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-8.614433582110001
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:6]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.64566368841
[C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.36405917901
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:4][H:5],2.8276570333099995
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.26566114579
[C:1]#[C:2][O:3][C:4]([H:5])[C:7](=[O:8])[H:9].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-3.71687778148
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10])([H:11])[H:12]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10])([H:11])[H:12],3.5801091586300005
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.53496771208
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])=[O:8],3.15581437313
[C:2]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:7]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.86227140703
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.3259018032
[H:1][C:2]([H:3])=[C:4]=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],7.797371437130001
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6](/[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],2.9956016994200003
[C:3]([H:4])[C:5]([H:6])([H:7])[H:17].[H:1][C:2]([C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])([C:15][H:16])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-8.08250937
[H:1].[O:2]=[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.74943955167
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.5561054899000002
